US03941785
N-[1-(3-Amino-2-benzyl-2,5-dihydro-5-oxo-as-triazin-6-yl)-ethyl]-4 methyl valeramide
N-[1-(3-amino-2-benzyl-2,5-dihydro-5-oxo-as-triazin-6-yl)ethyl]-cyclopentylacetamide, m.p. 195°-196.5° (from a mixture of ethanol and ether).

reactant | N-[1-(3-amino-2-benzyl-2,5-dihydro-5-oxo-as-triazin-6-yl)ethyl]-cyclopentylacetamide | NC=1N(N=C(C(N1)=O)C(C)NC(CC1CCCC1)=O)CC1=CC=CC=C1 | C19H25N5O2
reactant | ethanol | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | N-[1-(3-Amino-2-benzyl-2,5-dihydro-5-oxo-as-triazin-6-yl)-ethyl]-4 methyl valeramide | NC=1N(N=C(C(N1)=O)C(C)NC(CCC(C)C)=O)CC1=CC=CC=C1 | C18H25N5O2
